US05256820
1,2-Bis(methylsulfonyl)-1-(2-chloroethyl)-2-propionylhydrazine.
To a stirred solution of 1,2-bis(methylsulfonyl)-1-(2-chloroethyl)hydrazine (1.25 g, 0.005 mol) and propionyl chloride (3.20 g, 0.035 mol) in dry acetone (20 mL), triethylamine (0.014 mol) was added dropwise at room temperature. A precipitate was formed immediately. After an additional 20 h, the reaction mixture was filtered and the filtrate evaporated in dryness in vacuo. The residue was taken up in ethyl acetate (100 mL) and washed with dilute hydrochloric acid (3×15 mL), followed by water (2×10 mL). The ethyl acetate layer was dried over anhydrous magnesium sulfate, filtered and the filtrate evaporated to dryness in vacuo. The residue was triturated with petroleum ether to give a solid which, on recrystallization from absolute ethanol, afforded 0.71 g (46.4%) of the title compound: mp 97°-98° C.; 1H NMR (acetone-d6) δ 3.8-4.2 (m, 4 H, CH2CH2), 3.5 and 3.3 (2 s, 6 H, 2 CH3SO2), 2.8 (q, 2 H, COCH2), 1.1 (t, 3 H, COCCH3). Anal. (C7H15C1N2O5S2) C, H, N.

reactant | 1,2-bis(methylsulfonyl)-1-(2-chloroethyl)hydrazine | 0.005 mol, 1.25 g | CS(=O)(=O)N(NS(=O)(=O)C)CCCl | C4H11ClN2O4S2
reactant | propionyl chloride | 0.035 mol, 3.20 g | C(CC)(=O)Cl | C3H5ClO
reactant | triethylamine | 0.014 mol | C(C)N(CC)CC | C6H15N
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 1,2-Bis(methylsulfonyl)-1-(2-chloroethyl)-2-propionylhydrazine | 0.71 g, 46.4% | CS(=O)(=O)N(N(C(CC)=O)S(=O)(=O)C)CCCl | C7H15ClN2O5S2
